US06121285
1-[1-Benzyloxycarbonyl-4-(S)-fluoro-3-(S)-pyrrolidinyl]cyclopropanecarboxylic acid
1-Benzyloxycarbonyl-4-(S)-(1-ethoxycarbonyl-cyclopropyl)-3-(S)-fluoropyrrolidine (4.67 g, 13.92 mmol) was dissolved in ethanol (50 ml), and a 1 N sodium hydroxide aqueous solution (50 ml) was added dropwise to the resulting solution. The reaction solution was stirred at 40° C. for 1.5 hours and then ethanol was evaporated under reduced pressure. The resulting residue was mixed with water (50 ml) and washed with chloroform (100 ml), and the thus separated aqueous layer was acidified by adding dropwise 1 N hydrochloric acid and extracted with chloroform (200 ml×2) and then with diethyl ether (100 ml). The organic layers were combined and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure to obtain 3.94 g (92.1%) of the title compound as a colorless amorphous substance.

reactant | 1-Benzyloxycarbonyl-4-(S)-(1-ethoxycarbonyl-cyclopropyl)-3-(S)-fluoropyrrolidine | 13.92 mmol, 4.67 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)C1(CC1)C(=O)OCC)F | C18H22FNO4
reactant | sodium hydroxide | 1 N, 50 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[1-Benzyloxycarbonyl-4-(S)-fluoro-3-(S)-pyrrolidinyl]cyclopropanecarboxylic acid | 3.94 g, 92.1% | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@@H](C1)F)C1(CC1)C(=O)O | C16H18FNO4
